US05486618
4-Cyano-1-methyl-5-(p-chlorobenzoylthioureido)-pyrazole
6.4 ml (50 mmol) of p-chlorobenzoyl chloride were added to a solution of 4.2 g (55 mmol) of ammonium isothiocyanate in 100 ml of acetone at about 20° C. Stirring was carried out for 30 minutes, after which a solution of 6.1 g (50 mmol) of 5-amino-4-cyano-1-methylpyrazole in 100 ml of acetone was slowly added dropwise at 50° C. This mixture was heated at the boil for 4 hours, cooled to about 25° C. and then diluted with 1000 ml of water. The product was extracted with ethyl acetate. Yield: 65%.

reactant | p-chlorobenzoyl chloride | 50 mmol, 6.4 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ammonium isothiocyanate | 55 mmol, 4.2 g | [N-]=C=S.[NH4+]
reactant | 5-amino-4-cyano-1-methylpyrazole | 50 mmol, 6.1 g | NC1=C(C=NN1C)C#N | C5H6N4
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 1000 ml | O | H2O
product | 4-Cyano-1-methyl-5-(p-chlorobenzoylthioureido)-pyrazole | Yield: 65% | C(#N)C=1C=NN(C1NC(=S)NC(C1=CC=C(C=C1)Cl)=O)C | C13H10ClN5OS
